US06849761B2
5-({[4-(Dimethylamino)benzyl]amino}methyl)-6-methoxy-2-naphthoic acid
The title compound was prepared as a white solid (0.160 g, 23% for two steps) from 6-methoxy-5-formyl-2-naphthoic acid methyl ester using p-dimethylamino-benzyl amine dihydrochloride and a procedure similar to steps 3-4 of Example 1, mp >215° C. (decomp.); 1H NMR (DMSO-d6) δ2.97 (s, 6H), 3.94 (s, 3H), 4.14-4.23 (m, 2H), 4.39-4.48 (m, 2H), 6.88-7.14 (bs, 2H), 7.47 (d, J=8.0 Hz, 2H), 7.59 (d, J=9.3 Hz, 1H), 7.97 (dd, J=1.7, 8.9 Hz, 1H), 8.06 (d, J=9.0 Hz, 1H), 8.26 (d, J=9.2 Hz, 1H), 8.59 (d, J=1.6 Hz, 1H), 9.05-9.24 (bs, 2H), 11.90-13.75 (bs, 1H); IR (neat) 3320, 2330-3130, 1705, 1670, 1625, 1580, 1515, 1485, 1460, 1430, 1280, 1260, 1220, 1200, 1175, and 1100 cm−1; mass spectrum [(+) ESI], m/z 365 (M +H)+ and [(−) ESI], m/z 363 (M−H)−; Anal. Calcd. for C22H24N2O3. 2HCl.1.25H2O: C, 57.46; H, 6.25; N, 6.09, Found: C, 57.25; H, 6.37; N, 5.93.

reactant | 6-methoxy-5-formyl-2-naphthoic acid methyl ester | COC(=O)C1=CC2=CC=C(C(=C2C=C1)C=O)OC | C14H12O4
reactant | p-dimethylamino-benzyl amine dihydrochloride | Cl.Cl.CN(C1=CC=C(CN)C=C1)C
product | 5-({[4-(Dimethylamino)benzyl]amino}methyl)-6-methoxy-2-naphthoic acid | CN(C1=CC=C(CNCC2=C3C=CC(=CC3=CC=C2OC)C(=O)O)C=C1)C | C22H24N2O3
